US08314092B2
Dissolve methyl 2,2-dimethyl-3-(piperazin-1-yl)-propanoate dihydrochloride (1.49 g, 5.47 mmoles) in water and absorb onto an SCX2 column. Wash the column with methanol and elute methyl 2,2-dimethyl-3-piperazin-1-yl-propanoate with 2M ammonia in methanol. Remove the methanol in vacuo and add the methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate to acetonitrile (12 mL). Add 2,11-dichloro-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.85 g, 3.22 mmoles) and sodium bicarbonate (0.405 g, 4.83 mmoles) to the acetonitrile solution. Heat and stir in the microwave for 30 minutes at 140° C. Cool to room temperature, absorb the reaction mixture onto silica and purify by chromatography (gradient elution with EtOAc/isohexane 0:100% to 100:0%). Collect the fractions containing product and evaporate the solvent in vacuo and dissolve the residue in methanol (10 mL) and add lithium hydroxide (0.235 g, 9.65 mmoles). Heat and stir the methanolic solution in the microwave for 12.5 minutes at 140° C. Cool to room temperature and acidify with acetic acid and then evaporate the solvent under reduced pressure. Dissolve the residue in excess 2M HCl (aq) and then evaporated to dryness. Dissolve the residue in water and immobilise onto a macroporous polystyrene hydrogen carbonate (PL-HCO3) resin. Wash the resin with water and elute from the resin with 2M HCl (aq). Evaporate the solution to dryness to give 3-[4-(2-chloro-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid dihydrochloride (0.177 g; 11.28% yield). MS (m/z): 415.18 (M+1).

reactant | methyl 2,2-dimethyl-3-(piperazin-1-yl)-propanoate dihydrochloride | 5.47 mmoles, 1.49 g | Cl.Cl.CC(C(=O)OC)(CN1CCNCC1)C
reactant | 2,11-dichloro-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 3.22 mmoles, 0.85 g | ClC=1C=C2C(=NC3=C(CN2C1)C=C(C=C3)C)Cl | C13H10Cl2N2
reactant | sodium bicarbonate | 4.83 mmoles, 0.405 g | C([O-])(O)=O.[Na+]
reactant | lithium hydroxide | 9.65 mmoles, 0.235 g | [OH-].[Li+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[4-(2-chloro-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid dihydrochloride | 0.177 g, 11.28% yield | Cl.Cl.ClC=1C=C2C(=NC3=C(CN2C1)C=C(C=C3)C)N3CCN(CC3)CC(C(=O)O)(C)C | InChI=1S/C22H27ClN4O2.2ClH/c1-15-4-5-18-16(10-15)12-27-13-17(23)11-19(27)20(24-18)26-8-6-25(7-9-26)14-22(2,3)21(28)29;;/h4-5,10-11,13H,6-9,12,14H2,1-3H3,(H,28,29);2*1H
